US03953506
Preparation of 1-(2-Hydroxyethyl)-3-(1,2,3,4-tetrahydro-1-naphthyl)urea ##SPC17##
To a stirred solution of 2.42 grams (0.04 mole) of ethanolamine in 200 ml. of ether is added a solution of 6.95 grams (0.04 mole) of 1,2,3,4-tetrahydro-1-naphthyl isocyanate in 150 ml. of ether over a period of 30 minutes. Additional ether is added to facilitate stirring as the product precipitates. One hour after the isocyanate addition is complete, the mixture is filtered. The filter cake is washed with ether and dried to give 8.61 grams white solid, melting point 146°C. to 149°C. Recrystallization from nitromethane gives the analytical sample, melting point 147°C. to 149°C. Analysis calculated for C13H18N2O2 : C, 66.64; H, 7.74; N, 11.96. Found: C, 66.35; H, 7.78; N, 11.90.

reactant | ethanolamine | 0.04 mole, 2.42 grams | C(O)CN | C2H7NO
reactant | 1,2,3,4-tetrahydro-1-naphthyl isocyanate | 0.04 mole, 6.95 grams | C1(CCCC2=CC=CC=C12)N=C=O | C11H11NO
solvent | ether | CCOCC | C4H10O
product | 1-(2-Hydroxyethyl)-3-(1,2,3,4-tetrahydro-1-naphthyl)urea | 8.61 grams | OCCNC(=O)NC1CCCC2=CC=CC=C12 | C13H18N2O2
